US08455479B2
To a solution of 2-[(benzyloxycarbonyl-carboxymethyl-amino)-methyl]-4,5-difluoro-phenyl-ammonium trifluoroacetate (4.75 g, 10.25 mmol) in DCM (40 mL) was added EDC (2.55 g, 13.32 mmol) and HOBT (1.7.9 g, 13.32 mmol) at 0° C. The resulting solution was stirred for 5 min and DIPEA (5.35 mL, 30.75 mmol) was added to it. The reaction mixture was stirred overnight at r.t. under argon. After completion of the reaction as confirmed by TLC, water (60 mL) was added to the reaction mixture and crude compound was extracted with DCM (3×50 mL). The combined organic layers were dried over Na2SO4 and the solvents were removed in vacuo to afford the crude compound which was purified by column chromatography (silica gel: 2:8 EtOAc:Pet. ether) to afford pure benzyl 7,8-difluoro-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepine-4(5H)-carboxylate (2.04 g, 60%) as thick gel.

reactant | 2-[(benzyloxycarbonyl-carboxymethyl-amino)-methyl]-4,5-difluoro-phenyl-ammonium trifluoroacetate | 10.25 mmol, 4.75 g | FC(C(=O)[O-])(F)F.C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)CC1=C(C=C(C(=C1)F)F)[NH3+]
reactant | EDC | 13.32 mmol, 2.55 g
reactant | HOBT | 13.32 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 30.75 mmol, 5.35 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | 60 mL | O | H2O
product | benzyl 7,8-difluoro-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepine-4(5H)-carboxylate | 2.04 g, 60% | FC1=CC2=C(NC(CN(C2)C(=O)OCC2=CC=CC=C2)=O)C=C1F | C17H14F2N2O3
